US06939874B2
A mixture of 1-[3-(4-nitro-phenoxy)-propyl]-piperidine (15.5 g, 58.6 mmol) and 10% Pd/C (12.5 g) in 150 mL of EtOH was placed under a balloon of H2. The mixture was stirred for 18 h. The catalyst was removed by suction filtration and the organics concentrated to give 4-(3-piperidin-1-yl-propoxy)-phenylamine as a yellowish oil.

reactant | 1-[3-(4-nitro-phenoxy)-propyl]-piperidine | 58.6 mmol, 15.5 g | [N+](=O)([O-])C1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20N2O3
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd/C | 12.5 g | [Pd] | Pd
product | 4-(3-piperidin-1-yl-propoxy)-phenylamine | N1(CCCCC1)CCCOC1=CC=C(C=C1)N | C14H22N2O
